US07018685B2
56 mmol of 1-bromobutane are added to a mixture of 36 mmol of 1,8-difluorofluoren-2-ol and 109 mmol of anhydrous potassium carbonate in 250 ml of 2-butanone (methyl ethyl ketone) and the mixture is subsequently heated to reflux for 8 h. The still hot solution is then mixed with 50 ml of water. The phases are separated, the organic phase is washed with water and saturated sodium chloride solution and dried over sodium sulfate, and the solvent is removed on a rotary evaporator. The purification is effected by filtration through aluminum oxide (neutral) using toluene as the eluent and recrystallization from heptane. 2-Butoxy-1,8-difluorofluorene is obtained.

reactant | 1-bromobutane | 56 mmol | BrCCCC | C4H9Br
reactant | 1,8-difluorofluoren-2-ol | 36 mmol | FC1=C(C=CC=2C3=CC=CC(=C3CC12)F)O | C13H8F2O
reactant | potassium carbonate | 109 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
product | 2-Butoxy-1,8-difluorofluorene | C(CCC)OC1=C(C=2CC3=C(C=CC=C3C2C=C1)F)F | C17H16F2O
